US06492383B1
In a 500 mL round-bottomed flask 120 mL of tetrahydrofuran and with 13 grams of 4-chloro-thieno[3,2-d]pyridine (76.6 mmol) were cooled to −78° C. To the stirring solution was added n-butyllithium (191.6 mmol, 2.5M in hexane) was added dropwise over a 20 minute period. After stirring an additional 20 minutes iodine (48.3 g, 191.6 mmol) in 80 mL of THF was added dropwise such that the internal temperature did not exceed −78° C. After the addition was complete the reaction was allowed to slowly warm to room temperature. The reaction mixture was quenched by diluting with chloroform and extracting with H2O (2×250 mL), followed by extraction of the combined aqueous material with CHCl3 (1×100 mL). The organic portions were then washed with Na2S2O3 (2×200 mL), H2O (2×200 mL), dried over MgSO4, filtered and dried. The resulting residue was suspended in a minimal amount of chloroform and an excess of ether was added. The solid obtained was filtered and washed with ether. The mother liquor was concentrated and another crop of material was isolated in the same fashion. The two crops of crystals were combined to afford 11.8 g (52%) of 6-iodo-4-chloro-thieno[3,2-d]pyridine that was greater than 90% pure. 1H NMR (400 MHz, CDCl3) δ8.51 (d, 1H), 7.83 (s, 1H), 7.24 (d, 1H). LC-MS: 295.9, 297.9 (MH+); HPLC RT: 6.45 min.

reactant | 4-chloro-thieno[3,2-d]pyridine | 76.6 mmol, 13 grams | ClC1=CN=CC2=C1C=CS2 | C7H4ClNS
reactant | n-butyllithium | 191.6 mmol, 2.5M | C(CCC)[Li]
reactant | iodine | 191.6 mmol, 48.3 g | II | I2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | 6-iodo-4-chloro-thieno[3,2-d]pyridine | 11.8 g, 52% | IN1C=C(C=2C(=C1)SCC2)Cl | C7H5ClINS
